US06756378B2
To a stirred solution of N-[cis-1-tert-butoxycarbonyl-(2S)-(tert-butyldiphenylsilyloxy) methyl-4-pyrrolidinyl]phthalimide (1.60 g, 2.74 mmol) in EtOH (8 ml) was added NH2NH2·H2O(206 mg, 4.11 mmol) at room temperature. The reaction mixture was stirred at 70 for 1 hr. The mixture was concentrated in vacuo. The resulting solid was filtered off, and washed with CHCl3. The filtrate was concentrated in vacuo. The resulting solid was filtered off, and washed with CHCl3. The filtrate was concentrated in vacuo to give cis-4-amino-1-tert-butoxycarbonyl-(2S)-(tert-butyl diphenylsilyloxy)methylpyrrolidine (1.3 g, quant) as a pale yellow oil. The crude product was used to the subsequent reaction without further purification. 1H-NMR (CDCl3) δ1.06 (s, 9H), 1.30 and 1.45 (each s, total 9H), 1.59 (m, 1H), 1.85 (m, 1H), 2.94 (m, 1H), 3.44 (m, 1H), 3.78-4.07 (m, 4H), 7.36-7.41 (m, 6H), 7.51-7.65 (m, 4H).

reactant | N-[cis-1-tert-butoxycarbonyl-(2S)-(tert-butyldiphenylsilyloxy) methyl-4-pyrrolidinyl]phthalimide | 2.74 mmol, 1.60 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)N1C(C=2C(C1=O)=CC=CC2)=O)CO[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C | C34H40N2O5Si
reactant | NH2NH2·H2O | 4.11 mmol, 206 mg | NN.O
solvent | EtOH | 8 ml | CCO | C2H6O
product | cis-4-amino-1-tert-butoxycarbonyl-(2S)-(tert-butyl diphenylsilyloxy)methylpyrrolidine | 1.3 g | N[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C26H38N2O3Si
